US04576746
The crude 4-[2-(acetyloxy)ethyl]-3-ethyl-2-azetidinone is stirred with 9.7 g of potassium carbonate in 880 ml of absolute methanol at room temperature for 30 minutes. The mixture is neutralized with acetic acid and then evaporated to dryness at 50° C. under vacuum. The residue is suspended in a saturated aqueous solution of sodium chloride and the mixture is extracted with four 150-ml portions of ethyl acetate. The combined organic layers are dried over MgSO4 and then evaporated to dryness yielding 34 g of 3-ethyl-4-[2-(hydroxy)ethyl]-2-azetidinone which contains 80% of the trans isomer (estimated by N.M.R.). The I.R. and N.M.R. data confirm the assigned structure.

reactant | 4-[2-(acetyloxy)ethyl]-3-ethyl-2-azetidinone | C(C)(=O)OCCC1C(C(N1)=O)CC | C9H15NO3
reactant | potassium carbonate | 9.7 g | C([O-])([O-])=O.[K+].[K+]
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | methanol | 880 ml | CO | CH4O
product | 3-ethyl-4-[2-(hydroxy)ethyl]-2-azetidinone | 34 g | C(C)C1C(NC1CCO)=O | C7H13NO2
